US07518021B2
To a mixture of di-μ-chlorobis(1,5-cyclooctadiene)diiridium(I) [Ir(cod)Cl]2 (67 mg, 0.1 mmol) and sodium carbonate (640 mg, 6 mmol) in toluene (5 ml) were added 1,3,5-trihydroxybenzene (5 mmol) and vinyl acetate (2.15 g, 25 mmol), followed by stirring at 100° C. in an atmosphere of argon gas for 6 hours. The reaction mixture was analyzed by gas chromatography to find that 1,3-dihydroxy-5-vinyloxybenzene, 1-hydroxy-3,5-bis(vinyloxy)benzene, and 1,3,5-tris(vinyloxy)benzene were formed in yields of 5%, 4%, and 18%, respectively, with a conversion from 1,3,5-trihydroxybenzene of 29%.

reactant | sodium carbonate | 6 mmol, 640 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,3,5-trihydroxybenzene | 5 mmol | OC1=CC(=CC(=C1)O)O | C6H6O3
reactant | vinyl acetate | 25 mmol, 2.15 g | C(C)(=O)OC=C | C4H6O2
reactant | 1,3-dihydroxy-5-vinyloxybenzene | OC1=CC(=CC(=C1)OC=C)O | C8H8O3
reactant | 1-hydroxy-3,5-bis(vinyloxy)benzene | OC1=CC(=CC(=C1)OC=C)OC=C | C10H10O3
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3,5-tris(vinyloxy)benzene | C(=C)OC1=CC(=CC(=C1)OC=C)OC=C | C12H12O3
